US05977152
(RS)-2-(2,4-Difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-3-[[trans-2-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol
Reaction was carried out in the same manner as in Example 4 using (RS)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-3-methyl-1-(1H-1,2,4-triazol-1-yl)-2-butanol and (2E,4E)-5-[4-(trifluoromethyl)phenyl]-2,4-pentadienal as described in Reference example 25 to obtain the title compound, a major product as a colorless foam.

reactant | (RS)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-3-methyl-1-(1H-1,2,4-triazol-1-yl)-2-butanol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)(C)SC(CO)CO)O | C16H21F2N3O3S
reactant | (2E,4E)-5-[4-(trifluoromethyl)phenyl]-2,4-pentadienal | FC(C1=CC=C(C=C1)/C=C/C=C/C=O)(F)F | C12H9F3O
product | (RS)-2-(2,4-Difluorophenyl)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-3-[[trans-2-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C)(S[C@H]1CO[C@@H](OC1)\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F)C)O | C28H28F5N3O3S
